US05914324
3-Formyl-5α-androstan-6α,17β-diol (II-c)
Trimethyl phosphonoacetate (1.9 mL) was added to a mixture of sodium hydride (50%, 500 mg) in anhydrous tetrahydrofurane (25 mL), and the mixture was stirred at room temperature under nitrogen atmosphere for 15 min, then 3-oxo-5α-androstan-6α,17β-diol (II-b, Prep. 2.0 g) dissolved in anhydrous tetrahydrofurane (5 mL) was added. After 1 hr the reaction was quenched with sodium dihydrogen phosphate (5%). The mixture was extracted several times with ethyl acetate, the combined organic layers were dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude residue was purified by chromatography (SiO2 ; n-hexane/ethyl acetate 50/50) to give 780 mg of (E)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol and 1.04 g of (Z)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol as amorphous solids. (E)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol 1H-NMR (300 MHz, CDCl3, ppm from TMS): 5.65 (1H, bs), 3.75 (1H, m), 3.65 (3H, s), 3.52 (1H, t), 3.48 (1H, ddd), 2.55 (1H, m), 2.20-0.6 (24H, m). (Z)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol 1H-NMR (300 MHz, CDCl3, ppm from TMS): 5.62 (1H, bs), 4.10 (1H, m), 3.65 (3H, s), 3.52 (1H, t), 3.48 (1H, ddd), 2.40-0.6 (25H, m). Diisobutylaluminum hydride (1M in hexane, 10 mL) was added at -78° C. to a solution of (E)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol (700 mg) in anhydrous tetrahydrofurane (25 mL) under nitrogen atmosphere. The mixture was stirred overnight, then it was quenched (-78° C.) with sulfuric acid (0.1N, to pH=3-4) and extracted with ethyl acetate. The organic layers were dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography (SiO2, n-hexane/chloroform/acetone 10/45/45) to give 640 mg of (E)-3-(2-hydroxyethylen)-5α-androstan-6α,17β-diol. 1H-NMR (300 MHz, CDCl3, ppm from TMS): 5.35 (1H, m), 4.10 (2H, m), 3.52 (1H, t), 3.48 (1H, m), 2.55 (1H, m), 2.20-0.6 (25H, m). A mixture of (E)-3-(2-hydroxyethylen)-5α-androstan-6α,17β-diol (630 mg) and manganese dioxide (3 g) in dioxane (60 mL) was stirred at room temperature for 40 hrs, then it was filtered on a celite pad. The organic solution was dried over sodium sulfate and evaporated to dryness under reduced pressure. to give 530 mg of (E)-3-formylmethylen-5α-androstan-6α,17β-diol (II-d) 1H-NMR (300 MHz, CDCl3, ppm from TMS): 10.03 (1H, d), 5.90 (1H, m) 3.65 (1H, t), 3.48 (1H, m), 3.28 (1H, m), 2.55 (1H, m), 2.20-0.6 (24H, m). Similarly, starting from (Z)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol and using the experimental conditions above described it was possible to prepare (Z)-3-formylmethylen-5α-androstan-6α,17β-diol (II-e) 1H-NMR (300 MHz, CDCl3, ppm from TMS): 10.08 (1H, d), 5.82 (1H, m) 3.65 (1H, t), 3.52 (1H, m), 2.50-0.6 (26H, m).

reactant | (Z)-3-methoxycarbonylmethylen-5α-androstan-6α,17β-diol | COC(=O)\C=C\1/C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C22H34O4
reactant | (Z)-3-formylmethylen-5α-androstan-6α,17β-diol | C(=O)\C=C\1/C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C21H32O3
product | 3-Formyl-5α-androstan-6α,17β-diol | C(=O)C1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C20H32O3
